US07119207B2
A solution of 1.2 g (6.7 mmol) 6-methoxy-3,4-dihydro-1H-[1,5]naphthyridin-2-one in 15 ml of DMF was cooled to 5° C. and to this solution was slowly added 6.7 ml (6.7 mmol) of potassium t-butoxide (1M solution in THF). The mixture was stirred for 10 minutes followed by addition of 0.46 ml (7.4 mmol) methyl iodide. After addition was complete, the reaction mixture was stirred for 1 hour at 5° C. The reaction mixture was poured into saturated NaCl. The mixture was extracted with ethyl acetate. The ethyl acetate extracts were dried (Na2SO4) and evaporated. The residue was chromatographed on silica using 5:1 chloroform/ethyl acetate as the elutant. Appropriate fractions were combined and evaporated to yield 0.83 g of 6-methoxy-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one. TLC Rf=0.6 (1:10 ethyl acetate/chloroform). 1H NMR (CDCl3) δ 7.2 (d, 1H), 6.6 (d, 1H), 3.9 (s, 3H), 3.3 (s, 3H), 3.0 (m, 2H), 2.7 (m, 2H). Mass Spectrum: m/e 193.2 (p+1).

reactant | 6-methoxy-3,4-dihydro-1H-[1,5]naphthyridin-2-one | 6.7 mmol, 1.2 g | COC=1N=C2CCC(NC2=CC1)=O | C9H10N2O2
reactant | potassium t-butoxide | 6.7 mmol, 1M, 6.7 ml | CC(C)([O-])C.[K+]
reactant | methyl iodide | 7.4 mmol, 0.46 ml | CI | CH3I
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one | 0.83 g | COC=1N=C2CCC(N(C2=CC1)C)=O | C10H12N2O2
